US07399760B2
Synthesis of 2-amino-6-(4-methylphenyl)-1,3-oxazin-4-one
Potassium hydroxide (12.55 g, 224 mmol) was added to the vigorously stirred solution of methylthiopseudourea.H2SO4 (14.57 g, 52 mmol) in water (80 ml). Ethyl (4-methyl)benzoylacetate (20.0 g, 97 mmol) (obtained in preparation 1) was added to it and stirred at room temperature for 18 hours. The solid thus obtained was filtered, washed with water, ether and dried at 60° C. in vacuum to yield the title compound (1.85 g, 9.5%). 1H-NMR (DMSO-d6): δ 2.37 (s, 3H), 6.46 (s, 1H), 7.33-7.35 (d, 2H), 7.76-7.78 (d, 2H), 7.91 (bs, 2H, D2O exchangeable). MS m/z: 203.1 (M+).

reactant | Potassium hydroxide | 224 mmol, 12.55 g | [OH-].[K+]
reactant | methylthiopseudourea | CNC(S)=N | C2H6N2S
reactant | H2SO4 | 52 mmol, 14.57 g | OS(=O)(=O)O | H2O4S
reactant | Ethyl (4-methyl)benzoylacetate | 97 mmol, 20.0 g | CC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C12H14O3
solvent | water | 80 ml | O | H2O
product | 2-amino-6-(4-methylphenyl)-1,3-oxazin-4-one | 1.85 g, 9.5% | NC=1OC(=CC(N1)=O)C1=CC=C(C=C1)C | C11H10N2O2
